US06964974B2
Glycine ethyl ester hydrochloride (1 eq.) was dissolved in CH3CN and placed in an ice bath. Sulfuryl chloride (3 eq.) was added slowly (20 min). The reaction mixture was stirred at room temperature for 15 min and at 65° C. for 20 h. The solvent was evaporated and the residue was dried under high vacuum to yield Chlorosulfonylamino-propionic acid ethyl ester. The crude sulfamoyl chloride was used in the next step without further purification.

reactant | Glycine ethyl ester hydrochloride | 1 eq. | Cl.C(C)OC(CN)=O
reactant | Sulfuryl chloride | 3 eq. | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | CH3CN | CC#N | C2H3N
product | Chlorosulfonylamino-propionic acid ethyl ester | C(C)OC(C(C)NS(=O)(=O)Cl)=O | C5H10ClNO4S
